US07238808B2
3-(2-Chloro-pyrimidin-5-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and commercially available 5-bromo-2-chloropyrimidine (251 mg, 1.3 mmol) according to general procedure II. Obtained as an orange solid (30 mg, 6.8%). MS (ISN) 467.2 [(M)−]; mp 157–159° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 5-bromo-2-chloropyrimidine | 1.3 mmol, 251 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
product | 3-(2-Chloro-pyrimidin-5-ylethynyl)-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | ClC1=NC=C(C=N1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C20H8ClF6N5
